US04031221
6.5 g of oxalyl chloride are added dropwise to a stirred solution of 8.8 g of 5,6-dimethoxy-2-methylindole in 160 ml. of ether at -10° C. After addition is complete, the mixture is stirred for 10 minutes and a bright orange precipitate of 5,6-dimethoxy-2-methyl-indole-3-glyoxyloyl chloride appears. The ether suspension of 5,6-dimethoxy-2-methyl-indole-3-glyoxyloyl chloride is added portion wise to a cooled stirring mixture of 12.3 g of 4-(p-trifluoromethylphenoxy)piperidine, 12.5 g of potassium carbonate, 50 ml. of chloroform and 60 ml. of water. The reaction mixture is stirred overnight and the resultant white solid is collected and dried. The solid is recrystallized twice from a methanol and water mixture to give 1-(5,6-dimethoxy-2-methylindol-3-ylglyoxyloyl)-4-(p-trifluoromethylphenoxy)piperidine m.p. 211°-213° C.

reactant | oxalyl chloride | 6.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5,6-dimethoxy-2-methylindole | 8.8 g | COC=1C=C2C=C(NC2=CC1OC)C | C11H13NO2
reactant | 4-(p-trifluoromethylphenoxy)piperidine | 12.3 g | FC(C1=CC=C(OC2CCNCC2)C=C1)(F)F | C12H14F3NO
reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 1-(5,6-dimethoxy-2-methylindol-3-ylglyoxyloyl)-4-(p-trifluoromethylphenoxy)piperidine | COC=1C=C2C(=C(NC2=CC1OC)C)C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F)=O | C25H25F3N2O5
